US04326071
A mixture of 20 ml of 1-bromo-3-butyne and 25 mmole of tirphenylphosphine in 50 ml of benzene is heated at reflux for 3 days. The solid which separates upon cooling is filtered, washed with benzene and dried under reduced pressure is afford triphenyl-3-butenylphosphonium bromide. To a solution of 100 ml of liquid ammonia is added 0.26 g of finely divided sodium and a catalytic amount of ferric nitrate. When the blue solution turns gray finely powdered triphenyl-3-butenylphosphonium bromide (2.10-2 mole) is added. The reaction mixture is stirred for 15 minutes after which the ammonia is evaporated under a stream of nitrogen. To the resulting residue is added 100 ml of benzene, and the heterogeneous mixture is heated at reflux temperature for 10 minutes. The solid residue is filtered off and the filtrate is evaporated to dryness to give 3-butenylidenephosphorane. To a solution of salt free 3-butenylidenephosphorane (2.10-2 mole) in 100 ml of benzene is added 6.6 g (5.10-2 mole) of ethyl trifluoroacetate. The reaction mixture is heated at reflux temperature for 12 hours under nitrogen. Concentration of the solvent leaves an oily residue which is purified by distillation to give 1-trifluoromethyl-1-ethoxy-1,4-pentadiene. A suspension of 10 g of 1-trifluoromethyl-1-ethoxy-1,4-pentadiene in 20 ml of 1 N aqueous sulfuric acid is stirred for 20 minutes. Continuous extraction of the mixture with ether affords 1-trifluoromethylpent-4-ene-1-one.

reactant | 3-butenylidenephosphorane | 2.10-2 mole | C(CC=C)=[PH3] | C4H9P
reactant | ethyl trifluoroacetate | 5.10-2 mole, 6.6 g | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 1-trifluoromethyl-1-ethoxy-1,4-pentadiene | FC(C(=CCC=C)OCC)(F)F | C8H11F3O
